US09359352B2
Synthesis of 3-bromo-1,5-naphthyridine-5-oxide (C-3)
To a stirred solution of 3-bromo-1,5-naphthyridine (C-2) (35.6 g, 170 mmol, 1.0 eq) in dichloromethane (300 mL) at 0° C. was added m-chloroperbenzoic acid (35.27 g, 204 mmol, 1.2 eq) in portions. The resulting mixture was stirred for 1 h at RT. The reaction was complete based on TLC analysis. The reaction mixture was washed with saturated Na2SO3 solution and saturated NaHCO3 solution sequentially, and then washed with brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography on silica gel (1-5% MeOH-DCM) to afford the desired product 3-bromo-1,5-naphthyridine-5-oxide (C-3) (28.35 g, 74% yield). 1H NMR (300 MHz, CDCl3-d6) δ: 9.21 (s, 1H), 9.01 (s, 1H), 8.52 (d, J=6.3 Hz, 1H), 7.96 (d, J=8.7 Hz, 1H), 7.53 (m, 1H); ESI-MS m/z: 208.10 [M+H]+.

reactant | 3-bromo-1,5-naphthyridine | 170 mmol, 35.6 g, 1.0 eq | BrC=1C=NC2=CC=CN=C2C1 | C8H5BrN2
reactant | m-chloroperbenzoic acid | 204 mmol, 35.27 g, 1.2 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 3-bromo-1,5-naphthyridine-5-oxide | 28.35 g, 74% yield | BrC=1C=NC=2C=CC=[N+](C2C1)[O-] | C8H5BrN2O
